US06515011B2
TFA (3 mL) was added to a stirred solution of N-{5-chloro-2-[(3-hydroxyazetidin-1-yl)methyl]benzyl}-1-(tert-butoxycarbonyl)-L-prolinamide (210 mg, 0.49 mmol) in CH2Cl2 (6 mL) at 0° C. After 90 min the solution was concentrated and the residue was partitioned between CH2Cl2 and 10% NaHCO3. The aqueous layer was saturated with NaCl and then extracted with more CH2Cl2. The combined organic layers were washed with brine, dried over (Na2SO4) and then evaporated. The reside was purified by chromatography on silica (ammonia saturated CHCl3/MeOH, 93:7) to give N-{5-chloro-2-[(3-hydroxyazetidin-1-yl)methyl]benzyl}-L-prolinamide (55.8 mg) as a glass: 1H NMR (CDCl3, 400 MHz) δ 1.71 (m, 2H), 1.93 (m, 1H), 2.16 (m, 1H), 2.92 (m, 2H), 3.05 (m, 2H), 3.39 (m, 2H), 3.61 (dd, J=12.3, 20.7 Hz, 2H), 3.72 (dd, J=6.4, 8.6 Hz, 2H), 4.28-4.46 (m, 3H), 7.12 (d, J=8.1 Hz), 7.19 (dd, J=2.2, 8.1 Hz), 7.36 (d, J=2.0 Hz, 1H), 9.09 (br s, 1H).

reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-{5-chloro-2-[(3-hydroxyazetidin-1-yl)methyl]benzyl}-1-(tert-butoxycarbonyl)-L-prolinamide | 0.49 mmol, 210 mg | ClC=1C=CC(=C(CNC([C@H]2N(CCC2)C(=O)OC(C)(C)C)=O)C1)CN1CC(C1)O | C21H30ClN3O4
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | N-{5-chloro-2-[(3-hydroxyazetidin-1-yl)methyl]benzyl}-L-prolinamide | 55.8 mg | ClC=1C=CC(=C(CNC([C@H]2NCCC2)=O)C1)CN1CC(C1)O | C16H22ClN3O2
